US05214197
To a solution of tert.-butyl 4-(2-methyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate (5.16 g, 20.0 mmol) in toluene (40.0 ml), sodium methoxide (1M in methanol) (20.5 was added at 0° C. over 10 minutes in an argon atmosphere and stirred at 0° C. for 30 minutes. After dropwise adding 1N hydrochloric acid (21.0 ml), the mixture was stirred at 0° C. for 10 minutes. After evaporating off the most of the organic solvent under reduced pressure, the mixture was extracted with ethyl acetate and washed with a saturated saline and a phosphate buffer (pH 7.0). The organic layers were combined, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography (hexane:acetone=2:1) to give pure 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate (4.39 g, 17.83 mmol). Yield, 89.2 %.

reactant | tert.-butyl 4-(2-methyl-5-oxo-1,3-dioxolan-4-yl)-3-oxobutanoate | 20.0 mmol, 5.16 g | CC1OC(C(O1)CC(CC(=O)OC(C)(C)C)=O)=O | C12H18O6
reactant | hydrochloric acid | 1N, 21.0 ml | Cl | ClH
solvent | toluene | 40.0 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium methoxide | 1M | C[O-].[Na+]
product | 1-methyl 6-tert.-butyl 2-hydroxy-4-oxoadipate | 17.83 mmol, 4.39 g | OC(C(=O)OC)CC(CC(=O)OC(C)(C)C)=O | C11H18O6
